US04962024
C. 1,1,1-Trifluoro-5-bromo-2-pentanone
A 500 mL three neck round bottom flask, fitted with dropping funnel, magnetic stirrer, ice-salt bath, and argon inlet is charged with 125 mL of dry dimethylformamide, 29 g(35.7 mM) of trifluoro-5-hydroxy-2-pentanone. This mixture was cooled to -5° C. and 11.5 g(71.6 mM) of bromine was added dropwise over a two hour period. After stirring overnight at ambient temperature the reaction mixture was distilled through a 30 cm vigreaux column at 2.0 mm of pressure. Two fractions were collected; the first fraction from 27°-35° C. and the second fraction at 35°-70° C. The second fraction was partitioned between water and ethyl ether, the organic layer was washed with water (3×100 mL, dried (anhydrous MgSO4), and evaporated under reduced pressure at ambient temperature to give 40 g of a colorless oil mixture of dimethyl formamide, ether, and the desired product which was used in the next reaction without further purification.

reactant | dimethylformamide | 125 mL | CN(C=O)C | C3H7NO
reactant | trifluoro-5-hydroxy-2-pentanone | 35.7 mM, 29 g | FC(C(CCCO)=O)(F)F | C5H7F3O2
reactant | bromine | 71.6 mM, 11.5 g | BrBr | Br2
solvent | ether | CCOCC | C4H10O
product | 1,1,1-Trifluoro-5-bromo-2-pentanone | FC(C(CCCBr)=O)(F)F | C5H6BrF3O
